data/rdb19/train.csv
rxn,smiles,ea
5476,[C:17](=[C:18]([N:19]([C:20](=[O:21])[H:26])[H:25])[H:24])([H:22])[H:23].[C:1]([C:2]([C:3]([H:4])[H:5])([O:6][C:7](=[O:8])[C:9]([H:14])([H:15])[H:16])[H:13])([H:10])([H:11])[H:12]>>[C:17](=[C:18]([N:19]([C:20](=[O:21])[H:26])[H:25])[H:24])[H:23].[C:1]([C:2]([C:3]([H:4])([H:5])[H:22])([O:6][C:7](=[O:8])[C:9]([H:14])([H:15])[H:16])[H:13])([H:10])([H:11])[H:12],26.29296286014141
3255,[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:15])([H:16])[H:17])[C:6]([H:18])([H:19])[H:20])([H:10])[H:11])([H:7])([H:8])[H:9].[C:21]([C:22]([C:23]([H:24])[O:25][C:26](=[O:27])[C:28]([H:34])([H:35])[H:36])([H:32])[H:33])([H:29])([H:30])[H:31]>>[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:15])([H:16])[H:17])[C:6]([H:18])([H:19])[H:20])([H:10])[H:11])([H:7])[H:8].[H:9][C:23]([C:22]([C:21]([H:29])([H:30])[H:31])([H:32])[H:33])([H:24])[O:25][C:26](=[O:27])[C:28]([H:34])([H:35])[H:36],24.05128266295651
2235,[C:1]([C:2]([H:3])[H:4])([H:5])([H:6])[H:7].[C:8]([C:9]([O:10][C:11](=[O:12])[C:13]([C:14]([H:23])([H:24])[H:25])([C:15]([C:16]([H:28])([H:29])[H:30])([H:26])[H:27])[H:22])([H:20])[H:21])([H:17])([H:18])[H:19]>>[C:1]([C:2]([H:3])([H:4])[H:25])([H:5])([H:6])[H:7].[C:8]([C:9]([O:10][C:11](=[O:12])[C:13]([C:14]([H:23])[H:24])([C:15]([C:16]([H:28])([H:29])[H:30])([H:26])[H:27])[H:22])([H:20])[H:21])([H:17])([H:18])[H:19],23.22906349488767
3422,[C:17](=[C:18]([N:19]([C:20](=[O:21])[H:26])[H:25])[H:24])([H:22])[H:23].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5]([H:6])[H:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5]([H:6])([H:7])[N:19]([C:18](=[C:17]([H:22])[H:23])[H:24])[H:25])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[C:20](=[O:21])[H:26],44.23836259113159
619,[C:18]([C:19]([H:20])[H:21])([H:22])([H:23])[H:24].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[O:7][H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:5](=[O:6])[O:7][H:17])([H:13])[C:19]([C:18]([H:22])([H:23])[H:24])([H:20])[H:21])([H:11])[H:12])([H:8])([H:9])[H:10].[C:4]([H:14])([H:15])[H:16],61.73254902288318
5068,[C:11]([C:12]([C:13]([H:14])[H:15])([N:16]([C:17](=[O:18])[H:24])[H:23])[H:22])([H:19])([H:20])[H:21].[C:1]([O:2][C:3](=[C:4]([H:9])[H:10])[H:8])([H:5])([H:6])[H:7]>>[C:1]([O:2][C:3]=[C:4]([H:9])[H:10])([H:5])([H:6])[H:7].[H:8][C:13]([C:12]([C:11]([H:19])([H:20])[H:21])([N:16]([C:17](=[O:18])[H:24])[H:23])[H:22])([H:14])[H:15],24.318357463693246
5349,[C:17]([C:18]([C:19]([H:20])[c:21]1[c:22]([H:32])[c:23]([H:33])[c:24]([H:34])[c:25]([H:35])[c:26]1[H:36])([H:30])[H:31])([H:27])([H:28])[H:29].[C:1](=[C:2]([c:3]1[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]1[H:16])[H:11])([H:9])[H:10]>>[C:17]([C:18](=[C:19]([H:20])[c:21]1[c:22]([H:32])[c:23]([H:33])[c:24]([H:34])[c:25]([H:35])[c:26]1[H:36])[H:30])([H:27])([H:28])[H:29].[C:1](=[C:2]([C:3]1=[C:4]([H:12])[C:5]([H:13])[C:6]([H:14])([H:31])[C:7]([H:15])=[C:8]1[H:16])[H:11])([H:9])[H:10],40.227633314731065
857,[C:19]([C:20]([C:21]([H:22])[O:23][C:24]([H:30])([H:31])[H:32])([H:28])[H:29])([H:25])([H:26])[H:27].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([H:11])([H:12])[C:21]([C:20]([C:19]([H:25])([H:26])[H:27])([H:28])[H:29])([H:22])[O:23][C:24]([H:30])([H:31])[H:32])([H:8])([H:9])[H:10].[C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13],56.908594144973904
2576,[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([C:7]([H:17])([H:18])[H:19])([C:8]([H:9])[H:10])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13].[C:20]([O:21][C:22](=[C:23]([H:28])[H:29])[H:27])([H:24])([H:25])[H:26]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([C:7]([H:17])([H:18])[H:19])([C:8]([H:9])([H:10])[H:28])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13].[C:20]([O:21][C:22](=[C:23][H:29])[H:27])([H:24])([H:25])[H:26],26.400708634406328
3458,[C:17]([C:18](=[C:19]([H:26])[H:27])[C:20](=[O:21])[O:22][H:28])([H:23])([H:24])[H:25].[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])[C:5]([H:14])([H:15])[H:16])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])([C:5]([H:14])([H:15])[H:16])[C:18]([C:17]([H:23])([H:24])[H:25])([C:19]([H:26])[H:27])[C:20](=[O:21])[O:22][H:28])([H:9])[H:10])([H:6])([H:7])[H:8],18.792071039322764
4476,[C:13]([C:14]([C:15]([H:16])[H:17])([c:18]1[c:19]([H:28])[c:20]([H:29])[c:21]([H:30])[c:22]([H:31])[c:23]1[H:32])[H:27])([H:24])([H:25])[H:26].[C:1]([C:2](=[C:3]([H:10])[H:11])[C:4](=[O:5])[O:6][H:12])([H:7])([H:8])[H:9]>>[C:13]([C:14](=[C:15]([H:16])[H:17])[c:18]1[c:19]([H:28])[c:20]([H:29])[c:21]([H:30])[c:22]([H:31])[c:23]1[H:32])([H:24])([H:25])[H:26].[C:1]([H:7])([H:8])([H:9])[H:27].[C:2](=[C:3]([H:10])[H:11])[C:4](=[O:5])[O:6][H:12],82.28200058173388
